US08236824B2
NaH (0.9 g., 60% suspension in liquid paraffin) is dissolved in DMF (10 ml) and 2-(1H-pyrazole-3-yl)-isoindole-1,3-dione (11.7 mmol) is added at 0° C. To this solution is added 4-chloromethyl-pyridine (11.7 mmol) and the mixture is heated to 50° C. for 16 hours. The solvent is removed in vacuo. The residue is dissolved in ethanol (100 ml) and hydrazinium-hydroxide (70 ml) is added and the mixture is heated to 120° C. for 9 days. The solvent is removed in vacuo. 1-Pyridine-4-ylmethyl-1H-pyrazole-3-ylamine is obtained after column chromatography as colorless oil in a yield of 83%; LC-MS (method B): 0.44 min, 175.15 (M+H+);

reactant | NaH | 0.9 g | [H-].[Na+]
reactant | 2-(1H-pyrazole-3-yl)-isoindole-1,3-dione | 11.7 mmol | N1N=C(C=C1)N1C(C2=CC=CC=C2C1=O)=O | C11H7N3O2
reactant | 4-chloromethyl-pyridine | 11.7 mmol | ClCC1=CC=NC=C1 | C6H6ClN
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-Pyridine-4-ylmethyl-1H-pyrazole-3-ylamine | yield of 83% | N1=CC=C(C=C1)CN1N=C(C=C1)N | C9H10N4
